US07897627B2
Step 1: 6-tert-Butyl-quinoxalin-2-ol
To a solution of 2 g (12.18 mmol) 4-tert-butyl-1,2-diaminobenzene in 20 mL ethanol under argon at room temperature, was added 3.139 mL (15.83 mmol) ethyl glyoxalate (50% in toluene). The reaction mixture was stirred at room temperature for 4 h. The resulting suspension was filtered and washed with ethanol. The powder was dried to provide 257 mg (10.4%) of the title compound as a white solid. MS(m/e): 201.0 (M−H).

reactant | 4-tert-butyl-1,2-diaminobenzene | 12.18 mmol, 2 g | C(C)(C)(C)C1=CC(=C(C=C1)N)N | C10H16N2
reactant | ethyl glyoxalate | 15.83 mmol, 3.139 mL | C(C=O)(=O)OCC | C4H6O3
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 6-tert-Butyl-quinoxalin-2-ol | 257 mg, 10.4% | C(C)(C)(C)C=1C=C2N=CC(=NC2=CC1)O | C12H14N2O
